US08383637B2
3-Propyl-6-[3-(2,4,6-trimethyl-benzylamino)-phenoxy]-3,4-dihydro-quinazolin-2-ylamine
A mixture of {3-propyl-6-[3-(2,4,6-trimethyl-benzylamino)-phenoxy]-3,4-dihydro-quinazolin-2-yl}-carbamic acid tert-butyl ester (0.0001 mol) in 10% TFA in DCM (6 mL) was stirred in a reaction vial for 1 hour at room temperature and then the solvent was evaporated. The obtained residue was crystallized from CH3CN, and then the desired product was filtered off, washed with diisopropyl ether and dried under vacuum to yield the title compound as a solid.

reactant | {3-propyl-6-[3-(2,4,6-trimethyl-benzylamino)-phenoxy]-3,4-dihydro-quinazolin-2-yl}-carbamic acid tert-butyl ester | 0.0001 mol | C(C)(C)(C)OC(NC1=NC2=CC=C(C=C2CN1CCC)OC1=CC(=CC=C1)NCC1=C(C=C(C=C1C)C)C)=O | C32H40N4O3
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 3-Propyl-6-[3-(2,4,6-trimethyl-benzylamino)-phenoxy]-3,4-dihydro-quinazolin-2-ylamine | C(CC)N1C(=NC2=CC=C(C=C2C1)OC1=CC(=CC=C1)NCC1=C(C=C(C=C1C)C)C)N | C27H32N4O
